US05434148
5-methoxy-1-(4-fluorophenyl)-3-(benzyloxycarbonylamino)-2,3-dihydro-1H-indol-2-one
A mixture of 30.0 g (0.0972 mole) of 3-amino-1-(4-fluorophenyl)-5-methoxy-2,3-dihydro-1H-indol-2-one hydrochloride, 18.2 g of benzyloxycarbonyl chloride, 200 ml of anhydrous dichloroethane and 200 ml of water was cooled in an ice-salt bath, and to the mixture was added 27.0 g of sodium hydrogen carbonate over 10 minutes under argon atmosphere while stirring. After the mixture was stirred at the same temperature for 20 minutes and at the room temperature for 20 minutes, the reaction mixture was washed with a 10% hydrochloric acid aqueous solution, water and then a saturated saline solution, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was recrystallized from a mixed solvent of hexane and ethyl acetate to obtain 37.1 g of the title compound as colorless needle crystals. Melting point: 154.5° to 156° C.

reactant | 3-amino-1-(4-fluorophenyl)-5-methoxy-2,3-dihydro-1H-indol-2-one hydrochloride | 0.0972 mole, 30.0 g | Cl.NC1C(N(C2=CC=C(C=C12)OC)C1=CC=C(C=C1)F)=O
reactant | benzyloxycarbonyl chloride | 18.2 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
reactant | sodium hydrogen carbonate | 27.0 g | C(O)([O-])=O.[Na+]
solvent | water | 200 ml | O | H2O
product | 5-methoxy-1-(4-fluorophenyl)-3-(benzyloxycarbonylamino)-2,3-dihydro-1H-indol-2-one | 37.1 g | COC=1C=C2C(C(N(C2=CC1)C1=CC=C(C=C1)F)=O)NC(=O)OCC1=CC=CC=C1 | C23H19FN2O4
